US04461905
A mixture of 1.3 g of 1-acetyl-3-[2-(4-ethoxycarbonylphenoxy)ethyl]imidazolium iodide in 100 ml of 2N-hydrochloric acid was heated at 80° C. for 2 hours. After cooling, the solution was treated with an activated charcoal and concentrated under reduced pressure. The residue were triturated with acetone and the resulting crystals were filtered and dried to obtain 0.64 g of 4-[2-(1-imidazolyl)ethoxy]benzoic acid hydrochloride (79.0% yield). Colorless granules.

reactant | 1-acetyl-3-[2-(4-ethoxycarbonylphenoxy)ethyl]imidazolium iodide | 1.3 g | [I-].C(C)(=O)[N+]1=CN(C=C1)CCOC1=CC=C(C=C1)C(=O)OCC
reactant | hydrochloric acid | Cl | ClH
reactant | charcoal | C | CH4
product | 4-[2-(1-imidazolyl)ethoxy]benzoic acid hydrochloride | 0.64 g, 79.0% yield | Cl.N1(C=NC=C1)CCOC1=CC=C(C(=O)O)C=C1 | InChI=1S/C12H12N2O3.ClH/c15-12(16)10-1-3-11(4-2-10)17-8-7-14-6-5-13-9-14;/h1-6,9H,7-8H2,(H,15,16);1H
